US04737513
Using the procedure of Example 1, 610 mg of (1R,cis) 2,2-dimethyl-3-ethenyl-cyclopropane carboxylic acid and with 800 mg of 1-(2-propynyl)-2-trifluromethyl-3-pyrrole-methanol were reacted to obtain 1.28 g of [2-trifluoromethyl-1-(2-propynyl)-1H-pyrrol-3-yl]-methyl (1R,cis) 2,2-dimethyl-3-ethenyl-cyclopropane carboxylate with a specific rotation of [α]D =+9° (0.2% toluene)

reactant | (1R,cis) 2,2-dimethyl-3-ethenyl-cyclopropane carboxylic acid | 610 mg | CC1([C@@H]([C@@H]1C=C)C(=O)O)C | C8H12O2
reactant | 1-(2-propynyl)-2-trifluromethyl-3-pyrrole-methanol | 800 mg | C(C#C)N1C(=C(C=C1)CO)C(F)(F)F | C9H8F3NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2-trifluoromethyl-1-(2-propynyl)-1H-pyrrol-3-yl]-methyl (1R,cis) 2,2-dimethyl-3-ethenyl-cyclopropane carboxylate | 1.28 g | CC1([C@@H]([C@@H]1C=C)C(=O)OCC1=C(N(C=C1)CC#C)C(F)(F)F)C | C17H18F3NO2
